US09359625B2
To a stirring solution of sodium methoxide (32.4 g, 0.60 mol) and dimethyl malonate (90 g, 0.68 mol) in 230 mL of anhydrous methanol was added portion wise 75 g (0.48 mol) of 90% 3-nonen-2-one. The reaction mixture was then refluxed for 3 h under N2 and allowed to cool to room temperature. The solvent was distilled under reduced pressure and the residue dissolved in 350 mL of water. The slurry of white crystals and the almost clear solution was extracted thrice with 80 mL of chloroform. The aqueous layer was acidified to pH 4 with concentrated HCl and the white precipitate that formed was allowed to stand overnight prior to filtration. The crystals were dried at 50° C. under high vacuum for 5 hours to yield 106.5 g (0.4416 mol) (92%) of methyl 6-n-Pentyl-2-hydroxy-4-oxo-cyclohex-2-ene-1-carboxylate (mp 96-98 C). The product was recrystallized using a mixture of petroleum ether:ethyl acetate (9:1), and gave 94 g of pure methyl 6-n-Pentyl-2-hydroxy-4-oxo-cyclohex-2-ene-1-carboxylate (melting point of 98-100 C).

reactant | sodium methoxide | 0.60 mol, 32.4 g | C[O-].[Na+]
reactant | dimethyl malonate | 0.68 mol, 90 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-nonen-2-one | 0.48 mol, 75 g | CC(C=CCCCCC)=O | C9H16O
solvent | methanol | 230 mL | CO | CH4O
product | methyl 6-n-Pentyl-2-hydroxy-4-oxo-cyclohex-2-ene-1-carboxylate | 0.4416 mol, 106.5 g, 92% | C(CCCC)C1CC(C=C(C1C(=O)OC)O)=O | C13H20O4
